US06861424B2
To a solution of 2-((carboxy)methylcarbonylamino)naphthalene (1.2 g, 5.2 mmol) in CH2Cl2 (40 mL) was added triethylamine (2.2 mL, 15.6 mmol) and 1-hydroxybenzotriazole (HOBT) (0.84 g, 6.2 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (1.2 g, 6.2 mmol). After 5 minutes, 1-ethoxycarbonylpiperazine (0.84 mL, 5.3 mmol) was added and the reaction was stirred overnight. The reaction mixture was evaporated in vacuo to afford an oil, which was dissolved in ethyl acetate, and washed with saturated NaHCO3, 1 M NaHSO4 and brine. The organic layer was evaporated in vacuo to afford 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl]aminonaphthalene (1.2 g), as a solid that was used without further purification.

reactant | 2-((carboxy)methylcarbonylamino)naphthalene | 5.2 mmol, 1.2 g | C(=O)(O)CC(=O)NC1=CC2=CC=CC=C2C=C1 | C13H11NO3
reactant | triethylamine | 15.6 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 6.2 mmol, 0.84 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 6.2 mmol, 1.2 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-ethoxycarbonylpiperazine | 5.3 mmol, 0.84 mL | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl]aminonaphthalene | 1.2 g | C(C)OC(=O)N1CCN(CC1)C(=O)CC(=O)NC1=CC2=CC=CC=C2C=C1 | C20H23N3O4
